US06967196B1
4-chloro-N-[5-chloro-2-(hydroxymethyl)phenyl]-N-[4-(dimethylaminoaminosulfonyl)-1(R)-methylbutyl]-benzenesulfonamide was prepared analogous to 4-chloro-N-[5-chloro-2-(hydroxymethyl)phenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide by reacting (4R)-4-[5-chloro-2-(acetoxymethyl)phenyl][4-chlorophenyl)sulfonyl]-amino]pentylsulfonyl chloride with dimethylamine. Yield=73%; MS (ESI+), 509 (M+H)+.

reactant | 4-chloro-N-[5-chloro-2-(hydroxymethyl)phenyl]-N-[4-[(methylamino)sulfonyl]-1(R)-methylbutyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NC)C)C1=C(C=CC(=C1)Cl)CO | C19H24Cl2N2O5S2
reactant | pentylsulfonyl chloride | C(CCCC)S(=O)(=O)Cl | C5H11ClO2S
reactant | dimethylamine | CNC | C2H7N
product | 4-chloro-N-[5-chloro-2-(hydroxymethyl)phenyl]-N-[4-(dimethylaminoaminosulfonyl)-1(R)-methylbutyl]-benzenesulfonamide | Yield=73% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCS(=O)(=O)NN(C)C)C)C1=C(C=CC(=C1)Cl)CO | C20H27Cl2N3O5S2
